US04785090
8.15 g of N-hydroxyphthalimide was dissolved in 300 ml of N,N-dimethylformamide, 6.91 g of potassium carbonate and 200 mg of dicyclohexyl-18-crown-6 were added, and stirred at room temperature for 2 hours. Thereafter, 9.82 g of 4-chloromethyl-2-tritylaminothiazol was added thereto, and stirred and reacted at room temperature for 8 hours. The reaction mixture was concentrated under reduced pressure, and, after adding 500 ml of ethyl acetate, washed with 300 ml of water 4 times. The ethyl acetate layer was dried on anhydrous magnesium sulfate, and concentrated to dryness to obtain 12.5 g of (2-tritylaminothiazol-4-yl)methoxyphthalimide.

reactant | N-hydroxyphthalimide | 8.15 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | potassium carbonate | 6.91 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloromethyl-2-tritylaminothiazol | 9.82 g | ClCC=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19ClN2S
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
catalyst | dicyclohexyl-18-crown-6 | 200 mg | C1CCC2C(C1)OCCOCCOC3CCCCC3OCCOCCO2 | C20H36O6
product | (2-tritylaminothiazol-4-yl)methoxyphthalimide | 12.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)COC1=C2C(C(=O)NC2=O)=CC=C1 | C31H23N3O3S
